US06562842B2
a) methyl 3-(4-pyridinylmethoxy)benzoate
To a stirring solution of methyl 3-hydroxybenzoate (1.0 g, 6.58 mmol), 4-pyridylcarbinol (1.1 g, 9.87 mmol), and triphenylphosphine (2.6 g, 9.87 mmol) in THF (25 mL) at 0° C. was added diisopropyl azodicarboxylate (2.0 g, 9.87 mmol) dropwise. After stirring at room temperature for 16 h, the solution was concentrated and purified by column chromatography (silica gel, ethyl acetate/hexane) to yield the title compound as a white solid (0.599 g, 37%). MS(ESI): 244.1 (M+H)+.

reactant | methyl 3-hydroxybenzoate | 6.58 mmol, 1.0 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 4-pyridylcarbinol | 9.87 mmol, 1.1 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | triphenylphosphine | 9.87 mmol, 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 9.87 mmol, 2.0 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | methyl 3-(4-pyridinylmethoxy)benzoate | 0.599 g, 37% | N1=CC=C(C=C1)COC=1C=C(C(=O)OC)C=CC1 | C14H13NO3
